US08563723B2
In a mixture of 50 mL EtOH and 25 mL water, 1.11 g N-[(4,4-Dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-3-nitro-benzenesulfonamide was dissolved. Subsequently, 1.05 g iron and 1.08 mL acetic acid were added, and the mixture was refluxed for 4 h. After cooling to room temperature, the mixture was filtered over Hyflo and the Hyflo was rinsed with MeOH. The alcohols were evaporated from the filtrate, and 5% aqueous NaHCO3 and DCM were added. The material insoluble in these phases was filtered off, the organic phase was separated and the aqueous phase extracted once more with DCM. The combined organic layers were dried over MgSO4 and evaporated to dryness to give 1.02 g (100%) of 3-amino-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide as a brown foam. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7.22 Hz, 3H), 1.19 (s, 6H), 3.42-3.51 (m, 2H), 3.73 (s, 2H), 3.93 (br.s., 2H), 6.71-6.79 (m, 2H), 6.90 (br.s., 1H), 7.20 (t, J=7.83 Hz, 1H), 7.24-7.31 (m, 2H).

reactant | N-[(4,4-Dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-3-nitro-benzenesulfonamide | 1.11 g | CC1(C=NN(C1)C(=NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])NCC)C | C14H19N5O4S
reactant | acetic acid | 1.08 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | iron | 1.05 g | [Fe] | Fe
product | 3-amino-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide | 1.02 g, 100% | NC=1C=C(C=CC1)S(=O)(=O)N=C(NCC)N1N=CC(C1)(C)C | C14H21N5O2S
